US07915281B2
Under a nitrogen atmosphere, pyridine hydrochloride (0.020 g, 0.19 mmol), triethyl orthopropionate (2.5 g, 14 mmol), 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine (3.5 g, 9.5 mmol), and toluene (50 mL) were combined and heated at 110° C. for 18 hours. Most of the volatiles were removed under reduced pressure to provide a suspension. The solid was isolated by filtration, washed with diethyl ether, and dried to provide 2.624 g of 4-chloro-2-ethyl-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinoline as a tan solid.

reactant | triethyl orthopropionate | 14 mmol, 2.5 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine | 9.5 mmol, 3.5 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC1=CC(=NO1)C1=CC=C(C=C1)F | C19H14ClFN4O
catalyst | pyridine hydrochloride | 0.19 mmol, 0.020 g | Cl.N1=CC=CC=C1
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2-ethyl-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-1H-imidazo[4,5-c]quinoline | 2.624 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=C(C=C2)F)CC | C22H16ClFN4O
